US05041638
7-(4-Ethoxycarbonylphenyl)-6-formyl-heptanoic acid ethyl ester
10 g (30 mmol) of 7-(4-ethoxycarbonylphenyl)-6-hydroxymethylheptanoic acid ethyl ester are dissolved in 100 ml of methylene chloride of analytical purity and methylene chloride containing 6.45 g (30 mmol) of pyridinium chlorochromate is added under cooling with tapwater. After stirring for 2 hours at room temperature 3.25 g (15 mmol) of pyridinium chlorochromate are once again added and the mixture is stirred for 1 hour. The reaction mixture (including the oily residue) is applied to a chromatographic column filled with 500 g of silica gel (Merck Si 60, 0.04-0.063 mm) and elution is carried out under a slightly elevated pressure using methylene chloride as the mobile solvent. A fraction is thus obtained which, after being evaporated in vacuo, yields 7.7 g of an oily product.

reactant | 7-(4-ethoxycarbonylphenyl)-6-hydroxymethylheptanoic acid ethyl ester | 30 mmol, 10 g | C(C)OC(CCCCC(CC1=CC=C(C=C1)C(=O)OCC)CO)=O | C19H28O5
reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | pyridinium chlorochromate | 15 mmol, 3.25 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 mmol, 6.45 g | C(Cl)Cl | CH2Cl2
product | 7-(4-Ethoxycarbonylphenyl)-6-formyl-heptanoic acid ethyl ester | 7.7 g, Yield: 77% | C(C)OC(CCCCC(CC1=CC=C(C=C1)C(=O)OCC)C=O)=O | C19H26O5
